US07262185B2
To 2-hydroxymethyl-1-(2,2,2-trifluoroethyl)imidazole (1.40 g) was added thionyl chloride (14 ml), and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature, the solvent was distilled off under reduced pressure and the obtained solid was washed with ethyl acetate, to give 2-chloromethyl-1-(2,2,2-trifluoroethyl)imidazole hydrochloride (1.63 g) as brown crystals.

reactant | 2-hydroxymethyl-1-(2,2,2-trifluoroethyl)imidazole | 1.40 g | OCC=1N(C=CN1)CC(F)(F)F | C6H7F3N2O
reactant | thionyl chloride | 14 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-1-(2,2,2-trifluoroethyl)imidazole hydrochloride | 1.63 g | Cl.ClCC=1N(C=CN1)CC(F)(F)F | InChI=1S/C6H6ClF3N2.ClH/c7-3-5-11-1-2-12(5)4-6(8,9)10;/h1-2H,3-4H2;1H
